US07615646B2
17.2 2,3-Dimethyl-3-(4-sulfobutyl)-3H-indole-5-sulfonic acid
4-Hydrazinobenzenesulfonic acid (1.88 g), 5-methyl-6-oxoheptanesulfonic acid (2.5 g) and acetic acid (50 ml) were mixed and heated under reflux for 6 hrs. The solvent was evaporated under vacuum, then the residue was triturated with 2-propanol to yield the crude product as a yellow solid. This was purified by HPLC as required (RPC18. Water+0.1% TFA). 1H-nmr (D2O) δ0.8-1.0 (2H, m), 1.55-1.65 (5H,=3H, s+2H, m), 2.16 (1H, ddd), 2.29 (1H, ddd), 2.75 (2H, m), 2.81 (partially d-exchanged methyl singlet), 7.71 (1H, d), 7.94 (1H, d) and 8.01 (1H, d). UV/Vis (Water+0.1% TFA): 269, 229 nm. MS (LCMS): MH+362. Acc. Mass: Found, 362.0729. MH+=C14H20NO6S2 requires 362.0732 (−0.8 ppm).

reactant | 4-Hydrazinobenzenesulfonic acid | 1.88 g | N(N)C1=CC=C(C=C1)S(=O)(=O)O | C6H8N2O3S
reactant | 5-methyl-6-oxoheptanesulfonic acid | 2.5 g | CC(CCCCS(=O)(=O)O)C(C)=O | C8H16O4S
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 2,3-Dimethyl-3-(4-sulfobutyl)-3H-indole-5-sulfonic acid | CC1=NC2=CC=C(C=C2C1(CCCCS(=O)(=O)O)C)S(=O)(=O)O | C14H19NO6S2
